US04675333
1-{2-Hydroxy-3-propyl-4-[2-(4-aminophenoxy)ethoxy]phenyl}ethanone
1-{2-Hydroxy-3-propyl-4-[2-(4-nitrophenoxy)ethoxy]phenyl}ethanone (6.0 g) was dissolved in a mixture of ethanol (250 ml) and dimethylformamide (60 ml) to which was added, under nitrogen, a slurry of palladium on charcoal (500 mg, 5%) in ethanol (50 ml). The suspension was then hydrogenated on a Parr at 60 psi and room temperature for 2 hours. The suspension was filtered over Celite, washed with ethanol and the filtrate evaporated under reduced pressure to give a brown oil. The oil was triturated with water and filtered to give a brown solid. The solid was recrystallised from ethanol to give a cream solid, m.p. 73°-74° C.

reactant | 1-{2-Hydroxy-3-propyl-4-[2-(4-nitrophenoxy)ethoxy]phenyl}ethanone | 6.0 g | OC1=C(C=CC(=C1CCC)OCCOC1=CC=C(C=C1)[N+](=O)[O-])C(C)=O | C19H21NO6
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-{2-Hydroxy-3-propyl-4-[2-(4-aminophenoxy)ethoxy]phenyl}ethanone | OC1=C(C=CC(=C1CCC)OCCOC1=CC=C(C=C1)N)C(C)=O | C19H23NO4
